US07342014B2
Ethyl 3-(4-chloroanilino)-3-oxopropionate
Potassium ethyl malonate (3.2 g), 1-hydroxy-benzotriazole (2.1 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride. (4.5 g) were successively added to a solution of 4-chloroaniline (2.0 g) in N,N-dimethylformamide (20 ml) at room temperature, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous solution of sodium hydrogencarbonate, a 10% aqueous solution of citric acid and saturated aqueous solution of sodium chloride. After the resultant organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to obtain the title compound (4.0 g).

reactant | Potassium ethyl malonate | 3.2 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | 1-hydroxy-benzotriazole | 2.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | 4-chloroaniline | 2.0 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(4-chloroanilino)-3-oxopropionate | 4.0 g | ClC1=CC=C(NC(CC(=O)OCC)=O)C=C1 | C11H12ClNO3
